US03960542
The compound 2-(1-[4-bromophenyl]ethylthio)-pyridine N-oxide is prepared from 1-(4-bromophenyl)-ethylchloride and 2-mercaptopyridine N-oxide sodium salt by the procedure described in Example 1. The melting point is 113° - 115°C. Structure is confirmed by IR and NMR.

reactant | 1-(4-bromophenyl)-ethylchloride | BrC1=CC=C(C=C1)C(C)Cl | C8H8BrCl
reactant | 2-mercaptopyridine N-oxide sodium salt | [Na].SC1=[N+](C=CC=C1)[O-]
product | 2-(1-[4-bromophenyl]ethylthio)-pyridine N-oxide | Yield 85% | BrC1=CC=C(C=C1)C(C)SC1=[N+](C=CC=C1)[O-] | C13H12BrNOS
